US04985419
A mixture of 10-{(2RS)-1-[N-methyl-N-(1-methylethyl)amino]-2-propyl}-2-phenothiazinecarbothioamide hydrochloride (1.6 g) and propylamine (4.8 cc) in absolute ethanol (32 cc) is heated for 16 hours at a temperature in the region of 100° C. After cooling, the mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is dissolved in ethyl ether (100 cc) and the solution obtained is washed with N aqueous sodium hydroxide solution (4 cc) and then with saturated aqueous sodium chloride solution (2×10 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual red-brown gum is purified by chromatography on a column (height: 25 cm; diameter: 3 cm) of silica gel (0.04-0.063 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (97:3 by volume) (1 liter) of methylene chloride and methanol and collecting 60-cc fractions. Fractions 6 to 12 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow oil (0.85 g) is dissolved in ethyl ether (50 cc) in the presence of charcoal 3S. The mixture is filtered and a 3N solution (1 cc of hydrochloric acid in ethyl ether is added to the yellow filtrate, and the mixture is stirred for 1 hour at a temperature in the region of 20° C. The solid formed is drained washed with ethyl ether (5 cc) and dried under reduced pressure (5 mm Hg; 0.68 kPa) at 40° C. 10-{(2RS)-1-[N-Methyl-N-(1-methylethyl)amino]-2-propyl}-N-propyl-2-phenothiazinecarbothioamide hydrochloride (0.58 g) is thereby obtained in the form of a yellow solid, m.p. about 140° C. (melts forming a a paste).

reactant | 10-{(2RS)-1-[N-methyl-N-(1-methylethyl)amino]-2-propyl}-2-phenothiazinecarbothioamide hydrochloride | 1.6 g | Cl.CN(C(C)C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S
reactant | propylamine | 4.8 cc | C(CC)N | C3H9N
solvent | ethanol | 32 cc | C(C)O | C2H6O
product | 10-{(2RS)-1-[N-Methyl-N-(1-methylethyl)amino]-2-propyl}-N-propyl-2-phenothiazinecarbothioamide hydrochloride | 0.58 g | Cl.CN(C(C)C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=S | InChI=1S/C23H31N3S2.ClH/c1-6-13-24-23(27)18-11-12-22-20(14-18)26(17(4)15-25(5)16(2)3)19-9-7-8-10-21(19)28-22;/h7-12,14,16-17H,6,13,15H2,1-5H3,(H,24,27);1H
